US04232032
A mixture of 2,2-dichloro-1-(2-hydroxy-5-carboxyphenyl)ethanol (1.25 g.), chloral hydrate (1.0 g.) and concentrated sulphuric acid (12.5 ml.) was stirred at room temperature for 3 days. The reaction mixture was poured onto ice, and the product was filtered off, washed with water, dried and crystallised from aqueous acetic acid to give 4-dichloromethyl-2-trichloromethylbenzo[1,3]dioxin-6-carboxylic acid, m.p. 209° C.

reactant | 2,2-dichloro-1-(2-hydroxy-5-carboxyphenyl)ethanol | 1.25 g | ClC(C(O)C1=C(C=CC(=C1)C(=O)O)O)Cl | C9H8Cl2O4
reactant | chloral hydrate | 1.0 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sulphuric acid | 12.5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-dichloromethyl-2-trichloromethylbenzo[1,3]dioxin-6-carboxylic acid | ClC(C1OC(OC2=C1C=C(C=C2)C(=O)O)C(Cl)(Cl)Cl)Cl | C11H7Cl5O4
